US04077982
2-Butyl-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane
Using the procedure of Example 51, 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol and valeraldehyde were reacted, using benzene as solvent, to give, after separation by column chromatography, r-2-butyl-t-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane, b.p. 105°/0.05 mm, nD25 1.4840; and r-2-butyl-c-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane, b.p. 105°/0.025 mm, nD25 1.4865. The ir and nmr spectra were consistent with the assigned structures.

reactant | 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol | FC1=C(COC(CO)(CO)C)C=CC=C1 | C11H15FO3
reactant | valeraldehyde | C(CCCC)=O | C5H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-Butyl-5-(2-fluorobenzyloxy)-5-methyl-1,3-dioxane | C(CCC)C1OCC(CO1)(C)OCC1=C(C=CC=C1)F | C16H23FO3
